US08440666B2
2-Methyl-1-(pyridin-4-yl)propan-1-amine
4-Pyridinecarbaldehyde (0.5 mL, 5.25 mmol) in tetrahydrofuran (10 mL) was mixed with lithium hexamethyldisilazide in tetrahydrofuran (1 M, 6.3 mL, 6.3 mmol) and stirred at 0° C. for 4 hours and then stirred with isopropylmagnesium bromide in tetrahydrofuran (0.98 M, 6.3 mL, 6.3 mmol) at room temperature for 16 hours. After completion of the reaction, 1 M aqueous hydrochloric acid was added, and the reaction solution was washed with ethyl acetate. After addition of 1 M aqueous sodium hydroxide, the combined aqueous layer was extracted with chloroform. The resulting organic layer was filtered through celite, and the filtrate was dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The resulting crude reaction product containing the desired product was used for the next step.

reactant | 4-Pyridinecarbaldehyde | 5.25 mmol, 0.5 mL | N1=CC=C(C=C1)C=O | C6H5NO
reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | isopropylmagnesium bromide | C(C)(C)[Mg]Br
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6.3 mmol, 0.98 M, 6.3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6.3 mmol, 1 M, 6.3 mL | O1CCCC1 | C4H8O
product | 2-Methyl-1-(pyridin-4-yl)propan-1-amine | CC(C(N)C1=CC=NC=C1)C | C9H14N2
